US09056859B2
Step B: methyl 1-methylidene-2,3-dihydro-1H-indene-4-carboxylate
To a microwave tube charged with methyl 3-bromo-2-but-3-en-1-ylbenzoate (800 mg, 3.0 mmol) and a stir bar was added palladium(II) acetate (67 mg, 0.30 mmol), triphenylphoshphine (310 mg, 1.19 mmol), potassium carbonate (2.46 g, 18.0 mmol), and acetonitrile (20 mL). The reaction tube was sealed, and the solution was purged three times with nitrogen, and heated in a microwave apparatus to 120° C. for 10 minutes. TLC showed a big blue spot right below the SM. The product was isolated by silica gel chromatography. LC-MS M+1 (calc. 189, found 189).

reactant | methyl 3-bromo-2-but-3-en-1-ylbenzoate | 3.0 mmol, 800 mg | BrC=1C(=C(C(=O)OC)C=CC1)CCC=C | C12H13BrO2
reactant | potassium carbonate | 18.0 mmol, 2.46 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 0.30 mmol, 67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 1-methylidene-2,3-dihydro-1H-indene-4-carboxylate | C=C1CCC=2C(=CC=CC12)C(=O)OC | C12H12O2
